US06518423B1
1,3,5-Trimethyl-9-methoxymethylene-3-azabicyclo[3.3.1]nonane
100 ml of a solution of 20.5 ml of (methoxymethyl)trimethylsilane in dry tetrahydrofuran was cooled under a nitrogen atmosphere. Then 92 ml of a 1.3 M solution of s-butyllithium in cyclohexane was added dropwise thereinto at −78° C. After the completion of the addition, the mixture was stirred at −35° C. for 30 minutes. After adding 10.9 g of 1,3,5-trimethyl-3-azabicyclo[3.3.1]nonan-9-one, the resulting mixture was stirred at room temperature for 2 hours and then poured into a cooled aqueous solution of ammonium chloride. Then it was made alkaline by adding potassium carbonate and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, 9.2 g of the title compound was obtained as a pale-brown oily substance.

reactant | (methoxymethyl)trimethylsilane | 20.5 ml | COC[Si](C)(C)C | C5H14OSi
reactant | s-butyllithium | C(C)(CC)[Li]
reactant | 1,3,5-trimethyl-3-azabicyclo[3.3.1]nonan-9-one | 10.9 g | CC12CN(CC(CCC1)(C2=O)C)C | C11H19NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1,3,5-Trimethyl-9-methoxymethylene-3-azabicyclo[3.3.1]nonane | 9.2 g | CC12CN(CC(CCC1)(C2=COC)C)C | C13H23NO
